US04038391
Following the procedure of Example 4 but starting with 2-(7-cyano-1,8-naphthyridin-2-yl)-3-hydroxy-isoindolin-1-one (4.7 g.), sodium hydride (50% dispersion in mineral oil) (1.5 g.), 1-chlorocarbonyl-4-methylpiperazine (5.04 g.), anhydrous tetrahydrofuran (97 cc.) and anhydrous hexamethylphosphotriamide (25 cc.), a crude product (5.7 g.) is obtained which is then dissolved in methylene chloride (100 cc.). The resulting solution is passed through a column of silica gel (57 g.). Elution is carried out successively with methylene chloride (2,400 cc.), ethyl acetate (1,400 cc.) and then a mixture (200 cc.) of ethyl acetate And methanol (50--50 by volume), collecting 200 cc. fractions. The last eight fractions are combined and concentrated to dryness. The residue, weighing 3.4 g., is recrystallised from acetonitrile (250 cc.) to yield 2-(7-cyano-1,8-naphthyridin-2-yl)-3-(4-methylpiperazin-1-yl)carbonyloxy-isoindolin-1-one (2.6 g.) melting at 266°-268° C.

reactant | 2-(7-cyano-1,8-naphthyridin-2-yl)-3-hydroxy-isoindolin-1-one | 4.7 g | C(#N)C1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1O)=O | C17H10N4O2
reactant | sodium hydride | 1.5 g | [H-].[Na+]
reactant | 1-chlorocarbonyl-4-methylpiperazine | 5.04 g | ClC(=O)N1CCN(CC1)C | C6H11ClN2O
reactant | tetrahydrofuran | 97 cc | O1CCCC1 | C4H8O
solvent | methylene chloride | 100 cc | C(Cl)Cl | CH2Cl2
solvent | hexamethylphosphotriamide | 25 cc | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | 2-(7-cyano-1,8-naphthyridin-2-yl)-3-(4-methylpiperazin-1-yl)carbonyloxy-isoindolin-1-one | 2.6 g | C(#N)C1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1OC(=O)N1CCN(CC1)C)=O | C23H20N6O3
